US07396844B1
Synthesis of t-butyl [(1S)-2-chloro-1-(4-iodobenzyl)ethyl]carbamate
0.27 ml (1.92 mmol) of triethylamine and 165 mg (1.44 mmol) of methanesulfonyl chloride were added to 5 ml of dichloromethane containing 360 mg (0.96 mmol) of t-butyl [(1S)-2-hydroxy-1-(4-iodobenzyl)ethyl]carbamate under cooling with ice. After stirring for 30 minutes, the temperature was elevated to room temperature, and the mixture was stirred for 15 hours. The reaction liquid was diluted with water. After the extraction with dichloromethane, the organic layer was successively washed with 1 N hydrochloric acid, 1 N sodium hydroxide and saturated aqueous NaCl solution, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. 10 ml of dimethylformamide and 203 mg (4.8 mmol) of lithium chloride were added to the residue, and they were stirred at 50° C. for 19 hours. The reaction liquid was diluted with water. After the extraction with ethyl acetate, the organic layer was successively washed with water and saturated aqueous NaCl solution. The solvent was evaporated, and the residue was purified by the silica gel column chromatography to obtain the title compound.

reactant | triethylamine | 1.92 mmol, 0.27 ml | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 1.44 mmol, 165 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | dichloromethane | 0.96 mmol, 5 ml, 360 mg | ClCCl | CH2Cl2
reactant | t-butyl [(1S)-2-hydroxy-1-(4-iodobenzyl)ethyl]carbamate | OC[C@H](CC1=CC=C(C=C1)I)NC(OC(C)(C)C)=O | C14H20INO3
reactant | lithium chloride | 4.8 mmol, 203 mg | [Cl-].[Li+]
solvent | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | t-butyl [(1S)-2-chloro-1-(4-iodobenzyl)ethyl]carbamate | ClC[C@H](CC1=CC=C(C=C1)I)NC(OC(C)(C)C)=O | C14H19ClINO2
